US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[1-(hydroxymethyl)cyclopentyl]biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 584 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-bromo-N-(1-(hydroxymethyl)-cyclopentyl)benzene-sulfonamide in Step B. MS (ESI): mass calcd. for C22H23FN4O3S, 442.15; m/z found, 443.2 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.42 (s, 1H), 8.39 (s, 1H), 8.18 (d, J=7.3, 1H), 8.08 (m, 1H), 7.66-7.60 (m, 1H), 7.58-7.52 (m, 1H), 7.43 (dd, J=8.1, 1.8, 1H), 7.38-7.32 (m, 2H), 4.12 (s, 1H), 3.49 (s, 2H), 1.64-1.39 (m, 8H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N-(1-(hydroxymethyl)-cyclopentyl)benzene-sulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)NC1(CCCC1)CO | C12H16BrNO3S
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[1-(hydroxymethyl)cyclopentyl]biphenyl-2-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC1(CCCC1)CO)F | C22H23FN4O3S
